US03996230
In the manner given in Example 1, 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with piperazine to give 8-bromo-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1)Br | C15H9Br2N5
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-bromo-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)N3CCNCC3)C3=NC=CC=C3)C1 | C19H18BrN7
